US05834494
5-Bromoindoline (D50)
5-Bromoindole (0.7 g, 3.6 mmol) was treated with sodium cyanoborohydride as in the method of Description 10 to yield the title compound (0.5 g, 71%).

reactant | 5-Bromoindole | 3.6 mmol, 0.7 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 5-Bromoindoline | 0.5 g, 71% | BrC=1C=C2CCNC2=CC1 | C8H8BrN
